US09085555B2
3-Chloro-2-fluoro-5-(4-methyl-piperazin-1-yl)-benzylamine
was prepared according to Scheme C1 (step B) from [3-chloro-2-fluoro-5-(4-methyl-piperazin-1-yl)-benzyl]-carbamic acid tert-butyl ester and 4N HCl in dioxane. MS (LC-MS): 258.0 [M]+; tR (HPLC conditions f): 0.74 min.

reactant | [3-chloro-2-fluoro-5-(4-methyl-piperazin-1-yl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)N1CCN(CC1)C)Cl)F)=O | C17H25ClFN3O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Chloro-2-fluoro-5-(4-methyl-piperazin-1-yl)-benzylamine | ClC=1C(=C(CN)C=C(C1)N1CCN(CC1)C)F | C12H17ClFN3
